US06838463B2
To 10 ml of an ethanol solution of 1.5 g of 4,6-dichloropyrimidine was slowly added 0.78 g of sodium thiomethoxide at 0° C., followed by stirring at 0° C. for 7 hours. A saturated aqueous ammonium chloride solution was added to the reaction mixture and concentrated under reduced pressure. The residue was extracted three times with chloroform. The chloroform layers were combined, washed with water, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to silica gel column chromatography to give 1.1 g of 4-chloro-6-methylthiopyrimidine.

reactant | 4,6-dichloropyrimidine | 1.5 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | sodium thiomethoxide | 0.78 g | C[S-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-chloro-6-methylthiopyrimidine | 1.1 g | ClC1=NC=NC(=C1)SC | C5H5ClN2S
